US07615556B2
A mixture of 4-chloroaniline (2 g, 15.7 mmol), sodium bicarbonate (1.58 g, 18.8 mmol) and ethyl 2-bromo-2-methylpropanoate (6.12 g, 31.4 mmol) was heated at 140° C. in microwave reactor for 2 h. The reaction was cooled to rt and filtered. The filtrate was concentrated and purified by flash column chromatography using 0-40% EtOAc in heptanes as eluent. The product containing fractions were collected, concentrated, and dried under high vacuum overnight to give ethyl 2-(4-chlorophenylamino)-2-methylpropanoate (1.2 g, 32% yield) as an brown oil.

reactant | 4-chloroaniline | 15.7 mmol, 2 g | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | sodium bicarbonate | 18.8 mmol, 1.58 g | C([O-])(O)=O.[Na+]
reactant | ethyl 2-bromo-2-methylpropanoate | 31.4 mmol, 6.12 g | BrC(C(=O)OCC)(C)C | C6H11BrO2
product | ethyl 2-(4-chlorophenylamino)-2-methylpropanoate | 1.2 g, 32% yield | ClC1=CC=C(C=C1)NC(C(=O)OCC)(C)C | C12H16ClNO2
